* C:\Users\Alex\Documents\03 Projects\04 ESA parallel GaN\ESA_parallel_GaN\02 Simulations\01 Examples\rectifier.asc
* Generated by LTspice 24.1.6 for Windows.
V1 source 0 SINE(0 10 10e3)
R1 N001 source 5
D1 PGND N001 MyD
D2 N001 cap MyD
D3 PGND 0 MyD
D4 0 cap MyD
C1 cap PGND {Cdc}
.model D D
.lib C:\Users\Alex\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1m
.step param Cdc 10u 50u 10u
.model MyD D(Ron=1m Roff=1Meg Vfwd=1m Vrev=25)
.backanno
.end
